US05155130
6-Methoxy-3-(hydroxymethyl)-2H-1-benzopyran (4.35 g, 22.6 mmol) is dissolved in 70 ml of dry acetonitrile and treated with dibromotriphenylphosphorane (9.56 g, 22.6 mmol). After 15 min, the mixture is evaporated in vacuo. The residue is triturated with 100 ml of an ether/hexane mixture (1:1). The solid is removed by filtration (medium frit) and washed with several 50 ml portions of the ether/hexane mixture. The organic extracts are combined and evaporated to give 6-methoxy-3-(bromomethyl)-2H-1-benzopyran which is used without any further purification.

reactant | 6-Methoxy-3-(hydroxymethyl)-2H-1-benzopyran | 22.6 mmol, 4.35 g | COC=1C=CC2=C(C=C(CO2)CO)C1 | C11H12O3
reactant | dibromotriphenylphosphorane | 22.6 mmol, 9.56 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 6-methoxy-3-(bromomethyl)-2H-1-benzopyran | COC=1C=CC2=C(C=C(CO2)CBr)C1 | C11H11BrO2
